US07939569B1
4,5-Difluoro-2-methoxyphenyl-boronic acid (8.8 g, 46.82 mmol) and 4-iodophenol (6.86 g, 31.21 mmol) were suspended in 165 ml of DMF. H2O (40 mL) was added and the mixture was degassed with argon. Finely ground potassium carbonate (13 g, 93.63 mmol) and tetrakis(triphenylphosphine) palladium(0) (1.5 g, 1.29 mmol) were added. The reaction was stirred at 80-85° C. for 1 hr under argon and cooled. The mixture was diluted with ethyl acetate and water. The organic layer was washed with brine, dried and solvents were evaporated. The crude product was purified by flash chromatography, eluting with 0-8% ethyl acetate in hexanes to yield 4′,5′-difluoro-2′-methoxy-biphenyl-4-ol (6.58 g, 89.3%). LR-MS (ES) calculated for C13H10F2O, 236.22; found m/z 235 [M−H]−.

reactant | 4,5-Difluoro-2-methoxyphenyl-boronic acid | 46.82 mmol, 8.8 g | FC1=CC(=C(C=C1F)B(O)O)OC | C7H7BF2O3
reactant | 4-iodophenol | 31.21 mmol, 6.86 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | potassium carbonate | 93.63 mmol, 13 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 165 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 1.29 mmol, 1.5 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | H2O | 40 mL | O | H2O
product | 4′,5′-difluoro-2′-methoxy-biphenyl-4-ol | 6.58 g, 89.3% | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)O)OC | C13H10F2O2
